US04426524
To a stirred solution of 1.0 g (0.005 mol) of 3-(3-thienyl)phenylmethanol and 0.5 g (0.005 mol) of pyridine in 25 mL of methylene chloride was added in one portion 1.2 g (0.005 mol) of cis-3-(2,2-dichloroethenyl)-2,2-dimethylcyclopropanecarbonyl chloride in 5 mL of methylene chloride. The reaction mixture was stirred at ambient temperature for 17 hours, then transferred to a separatory funnel, and diluted with 200 mL of methylene chloride. The solution was washed with 200 mL of aqueous 2 N hydrochloric acid, 200 mL of a saturated aqueous solution of sodium chloride, 200 mL of a cold aqueous 2 N solution of sodium hydroxide, and finally, 200 mL of a saturated aqueous solution of sodium chloride. The organic layer was dried with magnesium sulfate, filtered, and the filtrate concentrated under reduced pressure to give a residual oil. The oil was subjected to medium pressure liquid chromatography using petroleum ether:ethyl acetate (55:1) as the eluent. The appropriate fractions were combined and subjected to distillation under reduced pressure using a Kugelrohr distilling system to give 0.1 g of 3-(3-thienyl)-phenylmethyl cis-3-(2,2-dichloroetheny)-2,2-dimethylcyclopropanecarboxylate.

reactant | 3-(3-thienyl)phenylmethanol | 0.005 mol, 1.0 g | S1C=C(C=C1)C=1C=C(C=CC1)CO | C11H10OS
reactant | pyridine | 0.005 mol, 0.5 g | N1=CC=CC=C1 | C5H5N
reactant | cis-3-(2,2-dichloroethenyl)-2,2-dimethylcyclopropanecarbonyl chloride | 0.005 mol, 1.2 g | ClC(=C[C@H]1C([C@H]1C(=O)Cl)(C)C)Cl | C8H9Cl3O
solvent | methylene chloride | 25 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 200 mL | C(Cl)Cl | CH2Cl2
product | 3-(3-thienyl)-phenylmethyl cis-3-(2,2-dichloroetheny)-2,2-dimethylcyclopropanecarboxylate | 0.1 g | ClC(=C[C@H]1C([C@H]1C(=O)OCC1=CC(=CC=C1)C1=CSC=C1)(C)C)Cl | C19H18Cl2O2S
